US04279902
B. N,N-Dipropyl-2-[[tetrahydro-5-[(phenylmethoxy)methyl]-2-furanyl]methoxy]acetamide
A mixture of 4.44 g of tetrahydro-5-[(phenylmethoxy)methyl]-2-furanmethanol (0.02 mole) and 3.55 g of 2-chloro-N,N-dipropylacetamide (0.02 mole) is dissolved in 125 ml of dry dimethyl sulfoxide and the mixture stirred at room temperature under nitrogen. Slowly, 0.50 g of sodium hydride (0.02 mole) is added to the dimethyl sulfoxide mixture and the reaction allowed to stir at ambient temperature (23°). After stirring for 10 minutes an exothermic reaction begins to take place and an ice-bath is used to maintain the reaction temperature below 30°. After stirring for 1 hour, the ice-bath is removed and the reaction allowed to stir at room temperature for 18 hours. The excess NaH is destroyed by adding 5 ml of methanol and the entire reaction mixture is then poured into 400 ml of water. The product is extracted with 3×125 ml portions of chloroform. The CHCl3 extracts are combined and washed with 4×300 ml portions of water. The CHCl 3 is then removed in vacuo yielding a pale yellow oil which is vacuum distilled and the fraction distilling at 210°-225° @0.5 mm is collected yielding 5.2 g (72%) of the above compound.

reactant | tetrahydro-5-[(phenylmethoxy)methyl]-2-furanmethanol | 0.02 mole, 4.44 g | C1(=CC=CC=C1)COCC1CCC(O1)CO | C13H18O3
reactant | 2-chloro-N,N-dipropylacetamide | 0.02 mole, 3.55 g | ClCC(=O)N(CCC)CCC | C8H16ClNO
reactant | sodium hydride | 0.02 mole, 0.50 g | [H-].[Na+]
reactant | water | 400 ml | O | H2O
solvent | dimethyl sulfoxide | 125 ml | CS(=O)C | C2H6OS
product | N,N-Dipropyl-2-[[tetrahydro-5-[(phenylmethoxy)methyl]-2-furanyl]methoxy]acetamide | 5.2 g, 72% | C(CC)N(C(COCC1OC(CC1)COCC1=CC=CC=C1)=O)CCC | C21H33NO4
